US06342607B1
3-[3-(3,4-Dichlorophenyl)-2,6-dioxopiperidin-3-yl]propionic acid chloride, of S configuration
Under a nitrogen atmosphere, 20 g of 3-[3-(3,4-dichlorophenyl)-2,6-dioxopiperidin-3-yl]propionic acid, 200 ml of toluere and 0.5 ml of DMF are mixed. The medium is heated to 60° C and 14.9 g of thionyl chloride and 40 ml of toluene are introduced dropwise. The stirring is maintained for 5 hours at 60° C. The toluene and the excess thionyl chloride are evaporated off and then the reaction medium is dried in an oven (40° C.) overnight.

reactant | 3-[3-(3,4-dichlorophenyl)-2,6-dioxopiperidin-3-yl]propionic acid | 20 g | ClC=1C=C(C=CC1Cl)C1(C(NC(CC1)=O)=O)CCC(=O)O | C14H13Cl2NO4
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 14.9 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[3-(3,4-Dichlorophenyl)-2,6-dioxopiperidin-3-yl]propionic acid chloride | ClC=1C=C(C=CC1Cl)C1(C(NC(CC1)=O)=O)CCC(=O)Cl | C14H12Cl3NO3
